US07919504B2
To a stirred mixture of tert-butyl 5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate (99 mg, 0.30 mmol) and cesium carbonate (154 mg, 0.47 mmol) in DMF (1.0 mL) was added slowly a solution of (3aS,4S)-4-(4-(trifluoromethyl)phenyl)tetrahydro-3H-pyrrolo[1,2-c][1,2,3]oxathiazole 1,1-dioxide (58 mg, 0.19 mmol) in DMF (1.0 mL) at 50° C. The mixture was stirred for 1 hour and then concentrated. The residue was dissolved in EtOH and acidified with 5 N HCl (˜pH 2). The mixture was heated at 120° C. for 20 minutes under microwave irradiation. The mixture was concentrated, and the residue was taken up in DCM (2 mL) and water (2 mL). The aqueous layer was made basic with 5 N NaOH and extracted with EtOAc (3×5 mL). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated. The residue was purified by flash column chromatography (ISCO Combiflash system, eluting with a gradient of DCM to 10% MeOH in DCM) to provide 5-(isoquinolin-6-yl)-N-(((2S,3S)-3-(4-(trifluoromethyl)phenyl)pyrrolidin-2-yl)methyl)-1,3,4-thiadiazol-2-amine as a pale yellow solid (8.8 mg, 10%). LCMS (M+H) 456.1 calc. for C23H21F3N5S 456.1. 1H NMR (400 MHz, CDCl3): δ ppm 2.14-2.29 (m, 1H), 2.48-2.54 (m, 2H), 3.72-3.81 (m, 1H), 3.82-3.92 (m, 1H), 4.04-4.23 (m, 1H), 4.54-4.67 (m, 1H), 7.48 (d, J=7.53 Hz, 2H), 7.70 (d, J=8.03 Hz, 2H), 7.78 (d, J=5.02 Hz, 2H), 7.86-8.02 (m, 1H), 8.30 (d, J=3.01 Hz, 1H), 8.42-8.54 (m, 2H), 9.24 (s, 1H). 2H obscured.

reactant | tert-butyl 5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate | 0.30 mmol, 99 mg | C1=NC=CC2=CC(=CC=C12)C1=NN=C(S1)NC(OC(C)(C)C)=O | C16H16N4O2S
reactant | cesium carbonate | 0.47 mmol, 154 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3aS,4S)-4-(4-(trifluoromethyl)phenyl)tetrahydro-3H-pyrrolo[1,2-c][1,2,3]oxathiazole 1,1-dioxide | 0.19 mmol, 58 mg | FC(C1=CC=C(C=C1)[C@@H]1CCN2S(OC[C@@H]21)(=O)=O)(F)F | C12H12F3NO3S
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 5-(isoquinolin-6-yl)-N-(((2S,3S)-3-(4-(trifluoromethyl)phenyl)pyrrolidin-2-yl)methyl)-1,3,4-thiadiazol-2-amine | 8.8 mg, 10% | C1=NC=CC2=CC(=CC=C12)C1=NN=C(S1)NC[C@H]1NCC[C@H]1C1=CC=C(C=C1)C(F)(F)F | C23H20F3N5S
